US08729105B2
Preparation of 5-(4-chloro-3-fluorophenyl)-6-(2-methoxyethoxy)-N-((3-(trifluoromethyl)-1,2,4-oxadiazol-5-yl)methyl)nicotinamide
The title compound was synthesized in analogy to Example 1 using 5-(4-chloro-3-fluorophenyl)-6-(2-methoxyethoxy)-nicotinic acid (example CF) and 3-trifluoromethyl-[1,2,4]oxadiazol-5-methanamine (example AK) as starting materials; LC-MS (UV peak area/ESI) 100%, 473.0662 (M−H)−.

reactant | 5-(4-chloro-3-fluorophenyl)-6-(2-methoxyethoxy)-nicotinic acid | ClC1=C(C=C(C=C1)C=1C(=NC=C(C(=O)O)C1)OCCOC)F | C15H13ClFNO4
reactant | 3-trifluoromethyl-[1,2,4]oxadiazol-5-methanamine | FC(C1=NOC(=N1)CN)(F)F | C4H4F3N3O
product | 5-(4-chloro-3-fluorophenyl)-6-(2-methoxyethoxy)-N-((3-(trifluoromethyl)-1,2,4-oxadiazol-5-yl)methyl)nicotinamide | ClC1=C(C=C(C=C1)C=1C(=NC=C(C(=O)NCC2=NC(=NO2)C(F)(F)F)C1)OCCOC)F | C19H15ClF4N4O4
